US07858646B2
Synthesis of 1-[4-(6-chloro-pyridin-3-ylmethoxy)-2-hydroxy-3-propyl-phenyl]-ethanone
Add 5-chloromethyl-2-chloropyridine (4.12 g, 25.4 mmol) to a solution of 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (4.94 g, 25.4 mmol) in dimethylformamide (40 mL). After 10 minutes add potassium carbonate (5.27 g, 38.1 mmol) and cesium carbonate (8.28 g, 25.4 mmol). Stir at room temperature for one hour, and then heat to 70° C. for 2 hours. Cool, partition between ethyl acetate (300 mL) and water (300 mL). Wash twice with water, brine, dry, and concentrate. Dissolve the crude solid in dichloromethane, and add hexane (70 mL) slowly. Triturate and filter to afford the title compound as an orange powder (2.95 g, 36%): 1H NMR (CDCl3) δ 0.94 (t, 3H), 1.55 (sextet, 2H), 2.58 (s, 3H), 2.67 (t, 2H), 5.14 (s, 2H), 6.47 (d, 1H), 7.38 (d, 1H), 7.60 (d, 1H), 7.73 (d, 1H), 8.47 (s, 1H), 12.75 (s, 1H).

reactant | 5-chloromethyl-2-chloropyridine | 25.4 mmol, 4.12 g | ClCC=1C=CC(=NC1)Cl | C6H5Cl2N
reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 25.4 mmol, 4.94 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 38.1 mmol, 5.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 25.4 mmol, 8.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 1-[4-(6-chloro-pyridin-3-ylmethoxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 2.95 g, 36% | ClC1=CC=C(C=N1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC | C17H18ClNO3
